US03933797
The 4-guanidinocinnamoyl chloride hydrochloride was prepared from 4-aminocinnamic acid according to the procedure of Example XII for preparing 3-guanidinobenzoyl chloride hydrochloride.

reactant | 4-aminocinnamic acid | NC1=CC=C(C=CC(=O)O)C=C1 | C9H9NO2
reactant | 3-guanidinobenzoyl chloride hydrochloride | Cl.N(C(=N)N)C=1C=C(C(=O)Cl)C=CC1
product | 4-guanidinocinnamoyl chloride hydrochloride | Cl.N(C(=N)N)C1=CC=C(C=CC(=O)Cl)C=C1 | InChI=1S/C10H10ClN3O.ClH/c11-9(15)6-3-7-1-4-8(5-2-7)14-10(12)13;/h1-6H,(H4,12,13,14);1H
